Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[H:1][O:2][C:3]=[O:4],1.04231191809
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7].[H:8],1.85255685697
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:5],1.58343953629
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([H:3])=[C:4][C:9]([H:10])([H:11])[H:12],4.25834469959
[H:10].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-2.0288119028
[H:5].[O:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-3.38910601639
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11],-4.6761113854100005
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],5.96892774931
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],8.43092078
[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-1.29209846016
[H:1][C:2]#[C:3][H:4].[H:5]>>[H:1][C:2]=[C:3]([H:4])[H:5],-1.97046513178
[H:1][C:2]([H:3])=[C:4][O:6][C:7]([H:8])([H:9])[H:10].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.82868672366
[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[H:8].[H:1][C:2]=[C:3]([C:4][H:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],8.09164973097
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],4.70385864953
[O:1]=[C:2]([H:3])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[O:4][H:5]>>[O:1][C@:2]([H:3])([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-2.20403433972
[H:1][C:2]#[C:3].[O:4][C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9],-4.876499795369999
[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.7720572372900003
[H:1][O:2][C:3]/[C:9](=[C:4]/[C:5]([H:6])([H:7])[H:8])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]1[C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]1[C:10]([H:11])([H:12])[H:13],-1.34485456808
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]#[C:10][H:11],2.48429718541
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:3](#[C:6][O:9][H:10])[H:7].[H:1][C:2]([O:4][H:5])[H:8],1.5262329232299998
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10],3.83101992922
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-3.3038016907200003
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14],4.98028710825
[H:1][C:2]([H:3])[C:4]#[C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6][C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:7],3.06230517075
[H:1][C:2]#[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4][C:5](=[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8],5.156302682190001
[C:4][H:5].[O:1]=[C:2]([C:3][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-7.63167552688
[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:6])[C:8]([H:9])([H:10])[H:11],4.90885028203
[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])=[C:9][H:10]>>[H:8].[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]#[C:9][H:10],1.8827441542200003
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9]1>>[H:1][O:2][C:3][O:9][C:6]([C:4][H:5])([H:7])[H:8],4.31301728
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:6],5.088867399140001
[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:12][H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-3.73040492726
